US08536179B2
6-bromo-1-(sec-butyl)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-1H-indole-4-carboxamide
Added sequentially to a reaction flask were 6-bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylic acid (1.33 g, 4.29 mmol), 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone (1.213 g, 6.43 mmol), 1-hydroxy-7-azabenzotriazole (0.875 g, 6.43 mmol), EDC (1.233 g, 6.43 mmol), followed by DMSO (30 mL, via syringe) and then N-methylmorpholine (1.886 mL, 17.15 mmol, via syringe). The contents were sealed and stirred at room temperature and the solids gradually dissolved. The contents were stirred at room temperature for 32 h, and then slowly diluted into 220 mL of ice-water with stirring. The contents were stirred for 10 min, and then allowed to stand for an additional 10 min. The contents were filtered and the filtered solid was washed with additional water (50 mL). The solid was then air dried for 10 min, and then in a vacuum oven at 50° C. for 23 h total. The product was collected as 1.75 g (87%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H), 1.36 (d, J=6.57 Hz, 3H), 1.77 (dq, J=10.29, 7.09 Hz, 2H), 2.12 (d, J=9.09 Hz, 6H), 2.21 (s, 3H), 4.30 (d, J=5.05 Hz, 2H), 4.43-4.56 (m, 1H), 5.86 (s, 1H), 6.99 (d, J=1.52 Hz, 1H), 7.30 (s, 1H), 7.77 (d, J=1.77 Hz, 1H), 8.25 (t, J=4.93 Hz, 1H), 11.49 (br. s., 1H); LCMS=444.1 (MH+).

reactant | 6-bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylic acid | 4.29 mmol, 1.33 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)CC)C)C(=O)O | C14H16BrNO2
reactant | 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone | 6.43 mmol, 1.213 g | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | 1-hydroxy-7-azabenzotriazole | 6.43 mmol, 0.875 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 6.43 mmol, 1.233 g
reactant | N-methylmorpholine | 17.15 mmol, 1.886 mL | CN1CCOCC1 | C5H11NO
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 6-bromo-1-(sec-butyl)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-1H-indole-4-carboxamide | BrC=1C=C(C=2C(=CN(C2C1)C(C)CC)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C22H26BrN3O2
